US06245769B1
(S)-3-amino-2-chloro-4-N-(1-methoxymethyl-3-methoxypropyl)-6-methyl-pyridin-4-amine:
2—Chloro-6-methyl-3-nitro-N-(1-methoxymethyl-3-methoxypropyl)pyridin-4-amine (˜16.82 mmol) was heated at reflux with Fe powder (10 g) in methanol (120 mL) in the presence of glacial acetic acid (10 mL) for 2 h. Then the iron was filtered through celite, the celite was washed with methanol(80 mL) and the filtrate was stripped in vacuo. The residue was dissolved in 10% HCl (120 mL) and EtOAc was added (160 mL). The mixture was neutralized with solid NaHCO3 and the aqueous layer was extracted with EtOAc (2×100 mL). The combined organic extracts were washed with brine (50 mL), dried (MgSO4) and stripped in vacuo (4.1 g).

reactant | 2—Chloro-6-methyl-3-nitro-N-(1-methoxymethyl-3-methoxypropyl)pyridin-4-amine | ˜16.82 mmol | ClC1=NC(=CC(=C1[N+](=O)[O-])NC(CCOC)COC)C | C12H18ClN3O4
reactant | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
solvent | methanol | 120 mL | CO | CH4O
catalyst | Fe | 10 g | [Fe] | Fe
product | (S)-3-amino-2-chloro-4-N-(1-methoxymethyl-3-methoxypropyl)-6-methyl-pyridin-4-amine | NC=1C(=NC(=CC1N[C@@H](CCOC)COC)C)Cl | C12H20ClN3O2
